US05990105
1.0 g (0.00255 mol) of 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine was dissolved in 25 ml of dioxane and treated with 2.1 ml of pyrrolidine. The mixture was stirred at room temperature for 4 hrs., the solvent was removed and the residue was chromatographed on silica gel with ethyl acetate/hexane 1:1. There was obtained 0.9 g (93%) of 4-(2-bromo-6-pyrrolidin-1-yl-pyridine-4-sulphonyl)- phenylamine as beige crystals; m.p.: 216° C. (dec).

reactant | 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine | 0.00255 mol, 1.0 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)Br | C11H8Br2N2O2S
reactant | pyrrolidine | 2.1 ml | N1CCCC1 | C4H9N
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 4-(2-bromo-6-pyrrolidin-1-yl-pyridine-4-sulphonyl)- phenylamine | 0.9 g, 93% | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)N1CCCC1 | C15H16BrN3O2S
